US07375087B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]phenyl}methyl)-5-isopropyl-1H-pyrazole (1.2 g) in N,N-dimethylformamide (15 mL) and dichloromethane (10 mL) was added triethylamine (15 mL). To the mixture were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.56 g), 1-hydroxybenzotriazole (0.4 g), and a solution of 2-amino-2-methylpropionic acid (2.0 g) in water (15 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was neutralized by addition of 2 mol/L aqueous acetic acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-dichloromethane/methanol=7/1-3/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{(1E)-2-[1-carboxy-1-(methyl)-ethylcarbamoyl]vinyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (0.44 g). This material was dissolved in N,N-dimethylformamide (0.3 mL). To the solution were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.18 g), 1-hydroxybenzotriazole (0.13 g) and N,N-dimethylethylenediamine (0.55 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 5 mol/L aqueous sodium hydroxide solution (1.5 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (1 mL), and the mixture was diluted with water (3 mL). The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μL, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/acetonitrile=90/10-10/60) to give the title compound (71 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | 1.2 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\C(=O)O)C(C)C | C30H36N2O12
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.56 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-amino-2-methylpropionic acid | 2.0 g | NC(C(=O)O)(C)C | C4H9NO2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 15 mL | O | H2O
solvent | acetic acid | 2 mol/L | C(C)(=O)O | C2H4O2
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{(1E)-2-[1-carboxy-1-(methyl)-ethylcarbamoyl]vinyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 0.44 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\C(NC(C)(C)C(=O)O)=O)C(C)C | C34H43N3O13
